US05166204
10 g of o-nitrocinnamaldehyde was dissolved in 150 ml of benzene. Thereto were added 25 g of ethyltriphenylphosphonium bromide and 150 ml of a 5 N aqueous sodium hydroxide solution. The mixture was stirred at room temperature for 2 hours. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distil-lation under reduced pressure. The residue was purified by column chromatography (eluant: toluene) to obtain 10.4 g (yield: 98%) of 1-nitro-2-(1,3-pentadienyl)-benzene as a light yellow oily material.

reactant | o-nitrocinnamaldehyde | 10 g | [N+](=O)([O-])C1=C(C=CC=O)C=CC=C1 | C9H7NO3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
catalyst | ethyltriphenylphosphonium bromide | 25 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-nitro-2-(1,3-pentadienyl)-benzene | 10.4 g, yield: 98% | [N+](=O)([O-])C1=C(C=CC=C1)C=CC=CC | C11H11NO2
